US07919506B2
4-[(2-{[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-methoxy-methyl]-piperidine-1-carboxylic acid ethyl ester
To a solution of N-(2-(methoxy(piperidin-4-yl)methyl)-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2-methyl-2H-tetrazol-5-amine (19.4 mg, 0.032 mmol) in methylene chloride (0.5 mL) at room temperature was added Hunig's base (8.9 mg, 12 μL, 0.069 mmol) followed by phosgene in toluene (20%, 25 μL, 0.048 mmol). The mixture was stirred at room temperature for 3 hours. Ammonia in ethanol (1 mL) was added and the mixture was stirred at room temperature overnight. Solvent was removed in vacuo The residue was purified by chromatography over 12+S Biotage silica column (eluted with 0-50% ethyl acetate in hexane) to afford the title compound (7.4 mg, 34%). 1H NMR (400 MHz, CDCl3) δ ppm 1.11-1.18(m, 1H) 1.20-1.31 (m, 2H) 1.24(t, J=7.05 Hz, 3H) 1.61-1.71 (m, 1H) 1.85(d, J=12.86 Hz, 1H) 2.56 (q, J=14.94 Hz, 2H) 3.04 (s, 3H) 4.05-4.19 (m, 2H) 4.10 (q, J=7.05 Hz, 2H) 4.16 (d, J=7.05 Hz, 1H) 4.21 (s, 3H) 4.68 (d, J=15.77 Hz, 1H) 4.71 (s, 2H) 4.88 (d, J=15.77 Hz, 1H) 7.36 (s, 1H) 7.50 (d, J=7.88 Hz, 1H) 7.58 (d, J=8.71 Hz, 1H) 7.64 (s, 2H) 7.78 (s, 1H). MS (ES+) Calc: 682.6, Found: 683.6 (M+1)

reactant | N-(2-(methoxy(piperidin-4-yl)methyl)-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2-methyl-2H-tetrazol-5-amine | 0.032 mmol, 19.4 mg | COC(C1=C(CN(C=2N=NN(N2)C)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(F)(F)F)C1CCNCC1 | C26H27F9N6O
reactant | Hunig's base | 0.069 mmol, 12 μL, 8.9 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 0.048 mmol, 25 μL | C1(=CC=CC=C1)C | C7H8
reactant | Ammonia | N | H3N
reactant | ethanol | 1 mL | C(C)O | C2H6O
solvent | methylene chloride | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 4-[(2-{[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-methoxy-methyl]-piperidine-1-carboxylic acid ethyl ester | 7.4 mg, 34% | C(C)OC(=O)N1CCC(CC1)C(OC)C1=C(C=C(C=C1)C(F)(F)F)CN(C=1N=NN(N1)C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C29H31F9N6O3
